US03968240
B. Preparation of α-Chloro-O-Acetyl-4-Chlorobenzaldoxime
To 19 g (0.1 mol) of α-chloro-4-chlorobenzaldoxime prepared above was added 20.6 g (2.0 mol) of acetic anhydride followed by heating on a water bath at a temperature of from 80° to 90°C for about 2 hours. After completion of the reaction, the reaction mixture was poured into water to give pale yellow crystals. The product thus obtained was filtered, dried and recrystallized from ligroin to give 18 g of the desired product as white crystals having a melting point of 76°-77°C. Yield, 77%.

reactant | α-chloro-4-chlorobenzaldoxime | 0.1 mol, 19 g | ClC(C1=CC=C(C=C1)Cl)=NO | C7H5Cl2NO
reactant | acetic anhydride | 2.0 mol, 20.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | α-Chloro-O-Acetyl-4-Chlorobenzaldoxime | 18 g | ClC(C1=CC=C(C=C1)Cl)=NOC(C)=O | C9H7Cl2NO2
